US08748446B2
Freshly distilled 2,3,3-trimethylindolenine (0.53 g, 3.3 mmol) and N-(3-bromopropyl)triethylammonium chloride (1.01 g, 3.9 mmol) were mixed in the thick-wall tube and placed under an argon atmosphere. The mixture was then heated at 140° C. for 1.5 h, giving a deep red viscous product, which solidified to a glass on cooling. It was ground to a powder under acetone; product was collected by filtration, triturated 3 times with 10 mL portions of acetone and dried under vacuum to give 0.45 g (36%) of 2,3,3-trimethyl-1-(3-triethylammoniopropyl)-3H-indolium bromide chloride as a white powder. δH (200 MHz, DMSO-d6) 8.10 (1H, d, 6.7 Hz, arom.), 7.87 (1H, d, 5.8 Hz, arom.), 7.75-7.58 (2H, m, arom.), 4.56 (2H, t, 7.3 Hz, N+CH2), 3.27 (6H, q, 6.0 Hz, N+(CH2)3), 2.91 (3H, s, CH3), 2.34-2.10 (2H, m, N+CH2), 1.56 (6H, s, (CH3)2) 1.36-1.05 (11H, m, CH2, (CH3)3).

reactant | 2,3,3-trimethylindolenine | 3.3 mmol, 0.53 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | N-(3-bromopropyl)triethylammonium chloride | 3.9 mmol, 1.01 g | [Cl-].BrCCC[N+](CC)(CC)CC
product | 2,3,3-trimethyl-1-(3-triethylammoniopropyl)-3H-indolium bromide chloride | 0.45 g, 36% | [Cl-].[Br-].CC1=[N+](C2=CC=CC=C2C1(C)C)CCC[N+](CC)(CC)CC | InChI=1S/C20H34N2.BrH.ClH/c1-7-22(8-2,9-3)16-12-15-21-17(4)20(5,6)18-13-10-11-14-19(18)21;;/h10-11,13-14H,7-9,12,15-16H2,1-6H3;2*1H/q+2;;/p-2
